US06824892B2
(1) Synthesis of 4-bromo-2,5-dimethylanisole
In a three-neck flask, 60 g (4.4×10−1 mol) of 2,5-dimethylanisole was dissolved in 600 ml of CHCl3, and then cooled to 0° C. using ice bath. To the solution, 70.32 g (4.4×10−1 mol) of Br2 in 200 ml of CCl4 was added dropwise over 1 hour. While maintaining the reaction solution at 0° C., the reaction was left to stand for 7 hours. The reaction solution was washed 3 times with NaOH saturated solution and distilled under reduced pressure, to remove the solvent. The remaining liquid was vacuum-distilled, to produce the title compound in a liquid state. Yield: 89% (83.14 g).

reactant | 2,5-dimethylanisole | 4.4×10−1 mol, 60 g | CC1=C(C=C(C=C1)C)OC | C9H12O
reactant | Br2 | 4.4×10−1 mol, 70.32 g | BrBr | Br2
solvent | CHCl3 | 600 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CCl4 | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromo-2,5-dimethylanisole | Yield: 89% | BrC1=CC(=C(C=C1C)OC)C | C9H11BrO
